US07595415B2
3-(3,4-dichlorophenyl)propionic acid amide (21 mg, 0.1 mmol) prepared in the same manner as in Reference Synthetic Example 8 was dissolved in tetrahydrofuran (2 ml) in nitrogen atmosphere, and under cooling with ice, tetrakistriphenylphosphine palladium(0) (5 mg, 0.004 mmol) was added, and then a tetrahydrofuran solution (0.5 ml) of tri-n-butyltin hydride (35 μl, 0.13 mmol) was dropwise added. After stirring for 30 minutes, the solution was concentrated under reduced pressure, and the residue was purified by tin-layer silica gel column chromatography (hexane:ethyl acetate=3:1) to give (E)-2-(tributylstannyl)-3-(3,4-dichlorophenyl)acrylamide (12.3 mg, 24%) as a pale yellow oily substance.

reactant | 3-(3,4-dichlorophenyl)propionic acid amide | 0.1 mmol, 21 mg | ClC=1C=C(C=CC1Cl)CCC(=O)N | C9H9Cl2NO
reactant | tri-n-butyltin hydride | 0.13 mmol, 35 μl | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | (E)-2-(tributylstannyl)-3-(3,4-dichlorophenyl)acrylamide | 12.3 mg, 24% | C(CCC)[Sn](\C(\C(=O)N)=C\C1=CC(=C(C=C1)Cl)Cl)(CCCC)CCCC | InChI=1S/C9H6Cl2NO.3C4H9.Sn/c10-7-3-1-6(5-8(7)11)2-4-9(12)13;3*1-3-4-2;/h1-3,5H,(H2,12,13);3*1,3-4H2,2H3;
